US06576643B2
e) (±)-10,11-Dihydro-3-[3-(3,4,5,6-tetrahydropyrimid-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
A solution of ethyl (±)-10,11-dihydro-3-[3-(3,4,5,6-tetrahydropyrimid-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (0.17 g, 0.36 mmol), lithium hydroxide monohydrate (0.042 g, 1 mmol), THF (3 mL), and water (10 mL) was stirred at room temperature for 20 hr, then was concentrated. The residue was dissolved in water, and the solution was brought to pH 4 with 3 N HCl. The resulting solution was kept in the refrigerator overnight, then the supernatant was decanted away from the solid. The solid was dried in vacuum to give the title compound (0.145 g, 91%) as a tan solid: MS (ES) 408.3 (M+H)+. Anal. Calcd for C24H29N3O3.1.3 HCl: C, 63.37; H,6.71; N, 9.23. Found: C, 63.67; H, 6.84; N, 9.46.

reactant | ethyl (±)-10,11-dihydro-3-[3-(3,4,5,6-tetrahydropyrimid-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.36 mmol, 0.17 g | N1=C(NCCC1)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C26H33N3O3
reactant | lithium hydroxide monohydrate | 1 mmol, 0.042 g | O.[OH-].[Li+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (±)-10,11-Dihydro-3-[3-(3,4,5,6-tetrahydropyrimid-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | 0.145 g, 91% | N1=C(NCCC1)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C24H29N3O3
